US04957928
6.63 g (77 mmol) of acrylic acid methyl ester are added at room temperature to a solution of 6.2 g (35 mmol) of 3-(2-aminoethyl)chroman in 50 ml of methanol and the whole is stirred for 16 hours at room temperature. The reaction mixture is then concentrated by evaporation in vacuo and yields 12.23 g (100%) of N-[2-(chroman-3-yl)ethyl]-N,N-bis(2-methoxycarbonylethyl)-amine in the form of a reddish oil.

reactant | acrylic acid methyl ester | 77 mmol, 6.63 g | COC(C=C)=O | C4H6O2
reactant | 3-(2-aminoethyl)chroman | 35 mmol, 6.2 g | NCCC1COC2=CC=CC=C2C1 | C11H15NO
solvent | methanol | 50 ml | CO | CH4O
product | N-[2-(chroman-3-yl)ethyl]-N,N-bis(2-methoxycarbonylethyl)-amine | 12.23 g, 100% | O1CC(CC2=CC=CC=C12)CCN(CCC(=O)OC)CCC(=O)OC | C19H27NO5
